US07045529B2
Part A. A solution of 4-trifluoromethoxyaniline (12.0 mL, 88.8 mmol) and N-chlorosuccinimide (13.04 g, 97.7 mmol) in acetonitrile (90 mL) was heated to reflux for 12 h. After cooling, the solution was filtered and evaporated, and the residual material was separated by column chromatography (silica gel, 10:90 ethyl acetate-hexane) to afford the product, 2-chloro-4-trifluoromethoxyaniline, as a liquid. The product was further purified by distillation to afford 18.14 g (85.7 mmol, 97%) pure product, b.p. 50-60° C./5 mm Hg (bulb-to-bulb). 1H NMR (300 MHz, CDCl3): Δ 7.16 (1H, d, J=2.5 Hz), 6.96 (1H, dd, J=8.8, 2.5 Hz), 6.73 (1H, d, J=8.8 Hz), 4.08 (2H, br s). MS (H2O-GC/MS): m/e 214 (27), 213 (17), 212 (100).

reactant | 4-trifluoromethoxyaniline | 88.8 mmol, 12.0 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | N-chlorosuccinimide | 97.7 mmol, 13.04 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | 2-chloro-4-trifluoromethoxyaniline | ClC1=C(N)C=CC(=C1)OC(F)(F)F | C7H5ClF3NO
